US09328110B2
The general method described in Step 3 of Example 15 was used to cyclize N4-(3,3-diethoxypropyl)quinoline-3,4-diamine (20.7 g, 71.5 mmol) by reaction with trimethyl orthobutyrate (13.2 g, 89.4 mmol) to provide 1-(3,3-diethoxypropyl)-2-propyl-1H-imidazo[4,5-c]quinoline (22.3 g) as a dark oil that was used directly in the next step without further purification.

reactant | N4-(3,3-diethoxypropyl)quinoline-3,4-diamine | 71.5 mmol, 20.7 g | C(C)OC(CCNC1=C(C=NC2=CC=CC=C12)N)OCC | C16H23N3O2
reactant | trimethyl orthobutyrate | 89.4 mmol, 13.2 g | C(CCC)(OC)(OC)OC | C7H16O3
product | 1-(3,3-diethoxypropyl)-2-propyl-1H-imidazo[4,5-c]quinoline | 22.3 g | C(C)OC(CCN1C(=NC=2C=NC=3C=CC=CC3C21)CCC)OCC | C20H27N3O2
